US08629137B2
7-chloro-3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
56 mg (0.20 mmol) 7-chloro-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one, 61 mg (0.20 mmol) 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one and 0.070 mL (0.40 mmol) DIPEA were stirred overnight in 1.5 mL DMF at RT. The mixture was diluted with 1.5 mL MeOH, suction filtered, washed with DIPE and dried.

reactant | 7-chloro-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 0.20 mmol, 56 mg | ClC1=CC2=C(NC(N(CC2)C2CCNCC2)=O)C=C1 | C14H18ClN3O
reactant | 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.20 mmol, 61 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C14H10ClN3O3
reactant | DIPEA | 0.40 mmol, 0.070 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1.5 mL | CO | CH4O
product | 7-chloro-3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | ClC1=CC2=C(NC(N(CC2)C2CCN(CC2)C2=NC=NC(=C2)C(=O)C2=CC3=C(N(C(O3)=O)C)C(=C2)C)=O)C=C1 | C28H27ClN6O4
